US03933767
A bed (8 × 90 cm) of finely divided dry sodium carbonate held at 250°-270°C. in a vertical glass tube was fluidized with a minimum flow of preheated (300°C.) nitrogen from the bottom, and the exit gases passed out the top and through a series of three dry-ice cooled traps. Perfluoro(8-cyano-2,5-dimethyl-3,6-dioxanonanoyl) fluoride (215 g) was added at 0.59 ml/minute to the preheated nitrogen entering the bed. After all of the acid fluoride had been added, the traps were washed out with the aid of ethyl ether and the combined trap contents distilled to give 172 g (95%) of perfluoro(8-cyano-5-methyl-3,6-dioxa-1-nonene).

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dry-ice | C(=O)=O | CO2
reactant | Perfluoro(8-cyano-2,5-dimethyl-3,6-dioxanonanoyl) fluoride | 215 g | FC(C(=O)F)(OC(C(OC(C(C(F)(F)F)(C#N)F)(F)F)(C(F)(F)F)F)(F)F)C(F)(F)F | C10F17NO3
product | perfluoro(8-cyano-5-methyl-3,6-dioxa-1-nonene) | 172 g, 95% | FC(=C(OC(C(OC(C(C(F)(F)F)(C#N)F)(F)F)(C(F)(F)F)F)(F)F)F)F | C9F15NO2
